US08957068B2
A mixture of benzyl 4-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)piperazine-1-carboxylate (190 mg, 0.34 mmol) and 10% Pd—C(40 mg, 0.038 mmol) in ethanol (3.4 ml) is stirred under 1 atmosphere pressure of hydrogen for 3 h. The mixture is filtered and concentrated to give (S)-4-isopropyl-3-(2-(((S)-1-(4-(piperazin-1-ylmethyl)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one as a white solid (97 mg, 67.2% yield).

reactant | benzyl 4-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)piperazine-1-carboxylate | 0.34 mmol, 190 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(CN2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1 | C31H38N6O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3.4 ml | C(C)O | C2H6O
catalyst | Pd—C | 0.038 mmol, 40 mg | [Pd] | Pd
product | (S)-4-isopropyl-3-(2-(((S)-1-(4-(piperazin-1-ylmethyl)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one | 97 mg, 67.2% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(C=C1)CN1CCNCC1 | C23H32N6O2
